US04227014
Preparation of 4-[(8-cyclohexyloctyl)amino]-N-3-bromopropylbenzamide
To a slurry of 21.80 g. of 2-bromopropylamine hydrobromide in 200 ml. of glyme at 3° C. is added a solution of 23.96 g. of 4-(8-cyclohexyloctylamino)benzoyl chloride hydrochloride in 65 ml. of glyme, concurrently with 26 ml. of triethylamine diluted to 39 ml. with glyme. The solution is warmed to reflux and 0.2 g. of 4-dimethylaminopyridine is added. The solution is heated for four hours and cooled overnight. The solid is removed by filtration and the filtrate diluted with 200 ml. of water. The precipitate is collected and crystallized from cyclohexane. The solid is recrystallized from acetonitrile to yield the product.

reactant | 2-bromopropylamine hydrobromide | Br.BrC(CN)C
reactant | 4-(8-cyclohexyloctylamino)benzoyl chloride hydrochloride | Cl.C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)Cl)C=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | glyme | C(OC)COC | C4H10O2
product | 4-[(8-cyclohexyloctyl)amino]-N-3-bromopropylbenzamide | C1(CCCCC1)CCCCCCCCNC1=CC=C(C(=O)NCCCBr)C=C1 | C24H39BrN2O
